US07018559B2
A. Synthesis of 1-(3-cyclohexen-1-yl)-1-hexanone
A 500 mL round bottom flask equipped with a mechanical stirrer was charged with 18.9 g (0.15 mol) 3-cyclohexene-1-carboxylic acid, and 300 mL of ether. 132 mL of hexylithium (2.5 M solution in hexane, 0.33 mol) was slowly added to above mixture in ice bath over 40 min. After the above mixture was reacted at 0° C. for 30 minutes, the reaction mixture was warmed to room temperature. The mixture is slowly added into a vigorously stirred mixture of 27 mL (0.32 mol) of concentrated HCl and 400 mL of water. The organic phase is separated, and aqueous phase is extracted with 3×150 mL of ether, the combined organic solution is dried over sodium sulfate, and the solution is evaporated and distilled to give pure product.

reactant | 3-cyclohexene-1-carboxylic acid | 0.15 mol, 18.9 g | C1(CC=CCC1)C(=O)O | C7H10O2
reactant | ether | 300 mL | CCOCC | C4H10O
reactant | HCl | 0.32 mol, 27 mL | Cl | ClH
reactant | water | 400 mL | O | H2O
reactant | hexane | CCCCCC | C6H14
product | 1-(3-cyclohexen-1-yl)-1-hexanone | C1(CC=CCC1)C(CCCCC)=O | C12H20O
